US07700623B2
As described in Reference Example 7, 0.12 g of 4-[3-(4-piperidinyl)propoxy]benzonitrile and 0.15 g of 4-(3-bromopropoxy)-2-fluorobenzonitrile were used to provide 0.10 g of 4-(3-{4-[3-(4-cyanophenoxy)propyl]-1-piperidinyl}propoxy)-2-fluorobenzonitrile as white solid form.

reactant | 4-[3-(4-piperidinyl)propoxy]benzonitrile | 0.12 g | N1CCC(CC1)CCCOC1=CC=C(C#N)C=C1 | C15H20N2O
reactant | 4-(3-bromopropoxy)-2-fluorobenzonitrile | 0.15 g | BrCCCOC1=CC(=C(C#N)C=C1)F | C10H9BrFNO
product | 4-(3-{4-[3-(4-cyanophenoxy)propyl]-1-piperidinyl}propoxy)-2-fluorobenzonitrile | 0.10 g | C(#N)C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC(=C(C#N)C=C2)F)C=C1 | C25H28FN3O2
